### PR TITLE
chore: symmetrize `Dicotic` API further

### PR DESCRIPTION
**Pull request by vihdzp**
see #224, #225, #226.

### CODE REVIEW

File: CombinatorialGames/Game/Player.lean [hunk 1]
```diff
@@ -45,9 +46,16 @@ theorem cases_inj {α : Sort*} {l₁ r₁ l₂ r₂ : α} :
...
+theorem const_of_left_eq_right {α : Sort*} {f : Player → α} (hf : f left = f right) :
+    ∀ p q, f p = f q
+  | left, left | right, right => rfl
+  | left, right => hf
+  | right, left => hf.symm
+
+theorem const_of_left_eq_right' {f : Player → Prop} (hf : f left ↔ f right) :
+    ∀ p q, f p ↔ f q := by
+  simp_rw [← propext_iff] at *
+  exact const_of_left_eq_right hf
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Player.lean]:
```suggestion
theorem const_of_left_eq_right' {f : Player → Prop} (hf : f left ↔ f right) (p q) : f p ↔ f q :=
  (const_of_left_eq_right hf.eq ..).to_iff
```

**Review by tristan-f-r — APPROVED** [review]
[See above golf]
